US07560571B2
To 0.055 g (0.272 mmol) of 5-(4-aminophenyl)-3H-imidazole-4-carboxamide dissolved in 4 cm3 of tetrahydrofuran is added, at a temperature in the region of 20° C. under an argon atmosphere, 0.040 cm3 (0.272 mmol) of 2-fluoro-5-trifluoromethylphenyl isocyanate. After stirring for 16 hours at a temperature in the region of 20° C., the reaction mixture is filtered through a No. 3 sinter funnel. The solid obtained is washed successively with three times 2 cm3 of tetrahydrofuran and three times 2 cm3 of pentane and is then dried under reduced pressure (2.7 kPa) to give 0.058 g of 5-{4-[3-(2-fluoro-5-trifluoromethylphenyl)ureido]phenyl}-3H-imidazole-4-carboxamide in the form of a beige-coloured solid melting at 325° C.; 1H NMR (400 MHz, DMSO d6, δ in ppm) 6.98 (broad m, 1H); 7.30 (broad m, 1H); 7.40 (m, 1H); 7.49 (partially masked m, 1H); 7.51 (d, J=8.5 Hz, 2H); 7.71 (s, 1H); 7.82 (d, J=8.5 Hz, 2H); 8.62 (dd, J=2.0 and 7.5 Hz, 1H); 9.00 (broad s, 1H); 9.37 (broad s, 1H); 12.65 (broad m, 1H); EI: m/z=407: M+; m/z=205 [C8H3NOF4]+ base peak; m/z=179 [C7H5NF4]+.

reactant | 5-(4-aminophenyl)-3H-imidazole-4-carboxamide | 0.272 mmol, 0.055 g | NC1=CC=C(C=C1)C1=C(NC=N1)C(=O)N | C10H10N4O
reactant | 2-fluoro-5-trifluoromethylphenyl isocyanate | 0.272 mmol, 0.040 cm3 | FC1=C(C=C(C=C1)C(F)(F)F)N=C=O | C8H3F4NO
solvent | tetrahydrofuran | 4 cm3 | O1CCCC1 | C4H8O
product | 5-{4-[3-(2-fluoro-5-trifluoromethylphenyl)ureido]phenyl}-3H-imidazole-4-carboxamide | 0.058 g | FC1=C(C=C(C=C1)C(F)(F)F)NC(NC1=CC=C(C=C1)C1=C(NC=N1)C(=O)N)=O | C18H13F4N5O2
